US06548493B1
4,5,7,8,9,10-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole hydrochloride
A mixture of 1-amino-2,3-dihydroindole (1.0 g, 5.9 mmol), piperidone hydrochloride monohydrate (0.91 g, 5.9 mmol) and isopropanol (29 mL) was brought to reflux for 4 hours. The resulting brown solid was filtered and washed with cold diethylether (20 mL) and dried under Vacuum, affording the title compound (1.01 g, 74%). 1H NMR (CD3OD, 300 MHz) δ7.15 (d, 1H, J=7.7 Hz), 6.85-6.96 (m, 2H), 4.39-4.50 (m, 4H), 3.75 (t, 2H, J=7.3 Hz), 3.57 (t, 2H, J=6.2 Hz), 3.15 (t, 2H, J=6.2 Hz) ppm.

reactant | 1-amino-2,3-dihydroindole | 5.9 mmol, 1.0 g | NN1CCC2=CC=CC=C12 | C8H10N2
reactant | piperidone hydrochloride monohydrate | 5.9 mmol, 0.91 g | O.Cl.N1C(CCCC1)=O
solvent | isopropanol | 29 mL | C(C)(C)O | C3H8O
product | 4,5,7,8,9,10-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole hydrochloride | 1.01 g, 74% | Cl.C1=C2C3=C(N4C2=C(C=C1)CC4)CCNC3 | InChI=1S/C13H14N2.ClH/c1-2-9-5-7-15-12-4-6-14-8-11(12)10(3-1)13(9)15;/h1-3,14H,4-8H2;1H
